US08865704B2
1-Methyl-4-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexyl methyl]-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
Solid CDI (0.18 mmol, 0.03 g) was added to a solution of trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclo hexanecarboxylic acid (0.16 mmol, 0.05 g) in dry DCM (1 mL) under argon. After 1 h at room temperature, 1-Pyridin-2-yl-piperazine (0.22 mmol, 32 μL) was added and the reaction mixture was left stirring at room temperature under argon overnight. The solvent was removed under reduced pressure and the crude purified by column chromatography on silica gel using DCM/MeOH 95/5 as eluent to give 42 mg (yield 59%) of the titled compound

reactant | CDI | 0.18 mmol, 0.03 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclo hexanecarboxylic acid | 0.16 mmol, 0.05 g | CN1C(CN(C(C2=C1C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)O)=O | C18H22N2O4
reactant | 1-Pyridin-2-yl-piperazine | 0.22 mmol, 32 μL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-4-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexyl methyl]-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 42 mg, yield 59% | CN1C(CN(C(C2=C1C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C2=NC=CC=C2)=O | C27H33N5O3
